US04642313
37 g of ethyl 3-(4-chlorobenzoylamino)-3-(2-furylcarbonyl)propionate are dissolved in 150 ml of chloroform. 64.9 g of phosphorus oxychloride are added dropwise to the solution at room temperature, and the mixture is refluxed at 60° to 70° C. for 8 hours under stirring. After the reaction is completed, the mixture is poured into ice-water. The aqueous mixture is neutrallized with sodium bicarbonate and then extracted with ethyl acetate. The extract is washed with water, dried, treated with activated charcoal and then evaporated under reduced pressure to remove solvent. The residue is crystallized with diisopropyl ether, and then recrystallized from ethanol. 30 g of ethyl 2-[2-(4-chlorophenyl)-5-(2-furyl)-4-oxazolyl]acetate are thereby obtained. Yield: 85.5%

reactant | ethyl 3-(4-chlorobenzoylamino)-3-(2-furylcarbonyl)propionate | 37 g | ClC1=CC=C(C(=O)NC(CC(=O)OCC)C(=O)C=2OC=CC2)C=C1 | C17H16ClNO5
reactant | phosphorus oxychloride | 64.9 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 2-[2-(4-chlorophenyl)-5-(2-furyl)-4-oxazolyl]acetate | 30 g, Yield: 85.5% | ClC1=CC=C(C=C1)C=1OC(=C(N1)CC(=O)OCC)C=1OC=CC1 | C17H14ClNO4
